US05280043
A mixture of 4-(4-nitrophenyl)butyric acid (3 g, 14 mmol) (Aldrich Chemical Company Ltd.) and 10% palladium on charcoal catalyst (0.3 g) in ethanol (100 ml) was submitted to gaseous hydrogen at 50 p.s.i., 20° C., for 30 minutes. The mixture was then filtered and concentrated. The resulting solid residue was recrystallised from isopropanol to give 4-(4-aminophenyl)butyric acid. (1.9 g, 76%) mp. 125°-127° C.

reactant | 4-(4-nitrophenyl)butyric acid | 14 mmol, 3 g | [N+](=O)([O-])C1=CC=C(C=C1)CCCC(=O)O | C10H11NO4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 0.3 g | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-(4-aminophenyl)butyric acid | NC1=CC=C(C=C1)CCCC(=O)O | C10H13NO2
